US07335660B2
To a solution of (1S)-N-(diphenylmethylene)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]-ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine (1.46 g, 2.5 mmol) in methanol (25 mL) was added sodium acetate (0.28 g, 2.65 mmol) and hydroxylamine hydrochloride (0.194 g, 2.8 mmol), and the mixture stirred at room temperature under nitrogen for 18 h. Water was added and extracted with dichloromethane. The combined organic extracts were dried (MgSO4), filtered and evaporated in vacuo. The crude product was purified by flash chromatography on silica, eluting with methanol/ethyl acetate (0:100 to 15:85), to yield (1S)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine. M+H=420.

reactant | (1S)-N-(diphenylmethylene)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]-ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine | 2.5 mmol, 1.46 g | C1(=CC=CC=C1)C(=NC=1C=CC2=C(CCO[C@H]2CCN2[C@@H](CN(CC2)C2=CC=CC3=CC(=CC=C23)F)C)C1)C1=CC=CC=C1 | C39H38FN3O
reactant | sodium acetate | 2.65 mmol, 0.28 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 2.8 mmol, 0.194 g | Cl.NO
reactant | Water | O | H2O
solvent | methanol | 25 mL | CO | CH4O
product | (1S)-1-{2-[(2R)-4-(6-fluoro-1-naphthyl)-2-methylpiperazinyl]ethyl}-3,4-dihydro-1H-2-benzopyran-6-amine | FC=1C=C2C=CC=C(C2=CC1)N1C[C@H](N(CC1)CC[C@@H]1OCCC2=C1C=CC(=C2)N)C | C26H30FN3O
